US04526978
1-Methyl-5-p-Toluenesulfonyltetrazole
A mixture of 36.2 g. (0.2 mol.) of p-toluenesulfonyl cyanide [M. J. Cox and R. Ghosh, Tet. Letters, 3351 (1969)] and 50 g. (0.9 mol.) of methyl azide [O. Dimroth, Ber., 38, 1572 (1905)] in 100 ml. of benzene is heated in a sealed bomb at 80° for 4 hours. The reaction mixture is filtered and allowed to cool to give 42 g. of crystallize product, m.p. 110°-111° C.

reactant | p-toluenesulfonyl cyanide | 0.2 mol | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
reactant | methyl azide | 0.9 mol | CN=[N+]=[N-] | CH3N3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Methyl-5-p-Toluenesulfonyltetrazole | CN1N=NN=C1S(=O)(=O)C1=CC=C(C=C1)C | C9H10N4O2S
